US09227978B2
2,2′,5′-Trichloro-4-methoxy-5-vinyl-1,1′-biphenyl
A mixture of 2,2′,5′-trichloro-5-iodo-4-methoxy-1,1′-biphenyl (1.17 g, 2.9 mmol), tributyl(vinyl)stannane (1.1 g, 3.5 mmol), Pd(PPh3)4 (670 mg, 0.6 mmol) in toluene (30 mL) was stirred at reflux under argon for 6 h. The reaction mixture was quenched with KF aqueous solution and then extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/DCM=100:1) to afford the desired product (310 mg, 35% yield) as a white solid.

reactant | 2,2′,5′-trichloro-5-iodo-4-methoxy-1,1′-biphenyl | 2.9 mmol, 1.17 g | ClC1=C(C=C(C(=C1)OC)I)C1=C(C=CC(=C1)Cl)Cl | C13H8Cl3IO
reactant | tributyl(vinyl)stannane | 3.5 mmol, 1.1 g | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.6 mmol, 670 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,2′,5′-Trichloro-4-methoxy-5-vinyl-1,1′-biphenyl | 310 mg, 35% yield | ClC1=C(C=C(C(=C1)OC)C=C)C1=C(C=CC(=C1)Cl)Cl | C15H11Cl3O
